US07402595B2
2-(4-carboxybenzyl)-6-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a 4N-hydrochloric acid-ethyl acetate solution (6 ml) was added 2-(4-tert-butoxycarbonylbenzyl)-6-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (220 mg) at room temperature, and the mixture was stirred for 6 hrs. The reaction mixture was concentrated under reduced pressure, and the obtained residue was crystallized from ethyl acetate-hexane to give the title compound (180 mg).

reactant | hydrochloric acid ethyl acetate | 6 ml | Cl.C(C)(=O)OCC
reactant | 2-(4-tert-butoxycarbonylbenzyl)-6-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 220 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C)=O)CC1=CC=C(C=C1)C(=O)OC(C)(C)C | C30H29NO5
product | 2-(4-carboxybenzyl)-6-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 180 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C)=O)CC1=CC=C(C=C1)C(=O)O | C26H21NO5
